US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(4-ethyl-2-benzothiazolylthio)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 200 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-8-mercapto-10b-methyl-1,2,3,4,4a,-5,6,10b-octahydrobenzo[f]quinolin-3-one (1.36 g, 5.20 mmol), potassium carbonate (2.16 g, 15.6 mmol), 2-chloro-4-ethyl-benzothiazole (1.23 g, 6.20 mmol) and 14 mL of anhydrous dimethylformamide, fitted with a reflux condenser, and the stirred mixture was heated at 60°, under nitrogen, for 18h. The mixture was cooled, diluted with ethyl acetate (750 mL) and washed with brine (6×250 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (80% ethyl acetate/hexanes eluent) to give 1.51g (69%) of the title compound as an amorphous foam. FDMS: m/e=422. α[D]589 =+62.74 (c=0.67, chloroform).

reactant | (+)-(4aR)-(10bR)-4-methyl-8-mercapto-10b-methyl-1,2,3,4,4a,-5,6,10b-octahydrobenzo[f]quinolin-3-one | 5.20 mmol, 1.36 g | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)S)C)=O | C15H19NOS
reactant | potassium carbonate | 15.6 mmol, 2.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4-ethyl-benzothiazole | 6.20 mmol, 1.23 g | ClC=1SC2=C(N1)C(=CC=C2)CC | C9H8ClNS
reactant | dimethylformamide | 14 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 750 mL | C(C)(=O)OCC | C4H8O2
product | (+)-(4aR)-(10bR)-4-methyl-8-(4-ethyl-2-benzothiazolylthio)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 1.51g, 69% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)SC=3SC1=C(N3)C(=CC=C1)CC)C)=O | C24H26N2OS2
